US08981085B2
A solution of (R)-benzyl 3-(tert-butoxycarbonyl(ethyl)amino)piperidine-1-carboxylate (5.00 g, 13.8 mmol) in a mixture of EtOH:MeOH (1:1, 50 mL) was added to a suspension of 10% palladium on activated carbon (1.47 g, 1.38 mmol) in EtOH (20 mL) under N2 atmosphere. The mixture was degassed under N2 (3 cycles) and back filled with H2 (3 cycles) using a H2 balloon. The mixture was then stirred under H2 atmosphere for 4 hours. The reaction mixture was then filtered through a pad of celite washing with 5% MeOH/EtOAc (3×30 mL). The filtrate collected was concentrated in vacuo to provide the crude (R)-tert-butyl ethyl(piperidin-3-yl)carbamate. LCMS (APCI+) m/z 229 (M+H)+.

reactant | (R)-benzyl 3-(tert-butoxycarbonyl(ethyl)amino)piperidine-1-carboxylate | 13.8 mmol, 5.00 g | C(C)(C)(C)OC(=O)N([C@H]1CN(CCC1)C(=O)OCC1=CC=CC=C1)CC | C20H30N2O4
solvent | EtOH MeOH | 50 mL | CCO.CO
catalyst | palladium on activated carbon | 1.38 mmol, 1.47 g | [Pd] | Pd
solvent | EtOH | 20 mL | CCO | C2H6O
product | (R)-tert-butyl ethyl(piperidin-3-yl)carbamate | C(C)N(C(OC(C)(C)C)=O)[C@H]1CNCCC1 | C12H24N2O2
